US04122272
2-Methyl-3-phenyl-5,6-dihydro-imidazo[2,1-b]thiazole (6.0 g., 0.027 mole) (prepared by basification of the hydrobromide salt with sodium carbonate solution and extraction into chloroform) and cetyl bromide (9.15 g., 0.03 mole) were refluxed in acetonitrile (50 ml.) for 12 hours. A crystalline solid separated on cooling which was collected and recrystallized from acetonitrile to yield 7-cetyl-2-methyl-3-phenyl-5,6-dihydro-imidazo[2,1-b]thiazolium bromide (12.2 g., 87%), m.p. 111°-113° C. (Found: C, 64.8; H, 8.6; N, 4.9. C28H45N2SBr requires C, 64.5; H, 8.6; N, 5.4%).

reactant | 2-Methyl-3-phenyl-5,6-dihydro-imidazo[2,1-b]thiazole | 0.027 mole, 6.0 g | CC1=C(N2C(S1)=NCC2)C2=CC=CC=C2 | C12H12N2S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | cetyl bromide | 0.03 mole, 9.15 g | C(CCCCCCCCCCCCCCC)Br | C16H33Br
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 7-cetyl-2-methyl-3-phenyl-5,6-dihydro-imidazo[2,1-b]thiazolium bromide | 12.2 g, 87% | [Br-].C(CCCCCCCCCCCCCCC)N1CC[N+]2=C1SC(=C2C2=CC=CC=C2)C | InChI=1S/C28H45N2S.BrH/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-19-22-29-23-24-30-27(25(2)31-28(29)30)26-20-17-16-18-21-26;/h16-18,20-21H,3-15,19,22-24H2,1-2H3;1H/q+1;/p-1
